US04760086
p-Toluenesulfonic acid monohydrate (55 mg) was added to a mixture of 3-hydroxy-5-trifluoromethylbenzo[b]thiophene-2-carboxamide (1.1 g, 4.4 mmol) and phenylacetaldehyde (1.0 g, 8.8 mmol) in toluene (25 ml). The reaction mixture was heated to reflux for 0.5 hours utilizing a Dean-Stark trap to collect the water formed during reaction. The solution was cooled, filtered and the filtrate concentrated. The residue was subjected to column chromatography on silica gel (E. Merck β7734), eluting with 1% acetic acid in 5:1 hexane/ether. Fractions containing the product were concentrated and the residue was recrystallized from cyclohexane to give 0.31 g (21%) of 3-hydroxy-N,N-di-(2'-phenylethenyl)-5-trifluoromethylbenzo[b]thiophene-2-carboxamide, m.p. 165°-167° C.

reactant | p-Toluenesulfonic acid monohydrate | 55 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3-hydroxy-5-trifluoromethylbenzo[b]thiophene-2-carboxamide | 4.4 mmol, 1.1 g | OC=1C2=C(SC1C(=O)N)C=CC(=C2)C(F)(F)F | C10H6F3NO2S
reactant | phenylacetaldehyde | 8.8 mmol, 1.0 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-hydroxy-N,N-di-(2'-phenylethenyl)-5-trifluoromethylbenzo[b]thiophene-2-carboxamide | 0.31 g, 21% | OC=1C2=C(SC1C(=O)N(C=CC1=CC=CC=C1)C=CC1=CC=CC=C1)C=CC(=C2)C(F)(F)F | C26H18F3NO2S
